US07696202B2
1-(6-amino-2-morpholin-4-yl-pyrimidin-4-yloxy)-2-methyl-propan-2-ol (1.03 g; 3.8 mmol) and imidazole (500 mg; 8 mmol) were-dissolved in dimethyl formamide (16 mL). To this solution was added tert-butyldimethylsilyl chloride (1.2 g; 8 mmol), and it was stirred for 72 hours. The solution was poured into ethyl acetate (100 mL) which was then washed with water (3×200 mL). The organic layer was separated, dried over magnesium sulfate, and purified by column chromatography to give 6-[2-(tert-butyl-dimethyl-silanyloxy)-2-methyl-propoxy]-2-morpholin-4-yl-pyrimidin-4-ylamine (500 mg).

reactant | 1-(6-amino-2-morpholin-4-yl-pyrimidin-4-yloxy)-2-methyl-propan-2-ol | 3.8 mmol, 1.03 g | NC1=CC(=NC(=N1)N1CCOCC1)OCC(C)(O)C | C12H20N4O3
reactant | imidazole | 8 mmol, 500 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 8 mmol, 1.2 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethyl formamide | 16 mL | CN(C=O)C | C3H7NO
product | 6-[2-(tert-butyl-dimethyl-silanyloxy)-2-methyl-propoxy]-2-morpholin-4-yl-pyrimidin-4-ylamine | 500 mg | C(C)(C)(C)[Si](OC(COC1=CC(=NC(=N1)N1CCOCC1)N)(C)C)(C)C | C18H34N4O3Si
